US08440834B2
Preparation of 1-(3-Cyclopropylmethoxy-4-difluoromethoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)-ethanol (3)
A solution of 3-cyclopropylmethoxy-4-difluoromethoxy-benzaldehyde (5.00 g) and 3,5-dichloro-4-methylpyridine (2.57 g) in 50 ml dry THF was cooled to −30° C. Solid potassium t-butoxide (tBuOK, 1.96 g) was added portionwise maintaining the temperature between −30° C. and −20° C., thus obtaining a dark red solution. After completion of the addition, the mixture was stirred at −30° C. for 1 hour. A saturated aqueous solution of NH4Cl (50 ml) was then added to the reaction mixture, maintaining the temperature between −5° C. and −10° C. The color of the reaction mixture turned to yellow.

reactant | 3-cyclopropylmethoxy-4-difluoromethoxy-benzaldehyde | 5.00 g | C1(CC1)COC=1C=C(C=O)C=CC1OC(F)F | C12H12F2O3
reactant | 3,5-dichloro-4-methylpyridine | 2.57 g | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | potassium t-butoxide | 1.96 g | CC(C)([O-])C.[K+]
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(3-Cyclopropylmethoxy-4-difluoromethoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)-ethanol | C1(CC1)COC=1C=C(C=CC1OC(F)F)C(CC1=C(C=NC=C1Cl)Cl)O | C18H17Cl2F2NO3
